US04695575
A mixture of 9.3 parts of 2-iodoacetamide, 20.0 parts of 3-[(4-fluorophenylmethyl]-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridine dihydrochloride, 17.0 parts of sodium hydrogen carbonate and 200 parts of ethanol was stirred for 3 hours at at reflux temperature. The salts were filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and ammonium hydroxide (90:9:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2,2'-oxybispropane and 2-propanone. The product was filtered off and dried in vacuo at 60° C., yielding 8.5 parts (44.5%) of 4-[[3-[(4-fluorophenyl)methyl]-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidineacetamide; mp. 153.4° C. (148).

reactant | 2-iodoacetamide | ICC(=O)N | C2H4INO
reactant | (4-fluorophenylmethyl]-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)CC2CCNCC2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[[3-[(4-fluorophenyl)methyl]-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidineacetamide | 44.5% | FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CC(=O)N | C21H24FN5O
